US20010047105A1
Following the procedure described for Preparation 8, Step A, tetrahydro-pyrrolizine-3,5-dione (1.41 g, 10.1 mmol) was reacted with 4-fluorobenzylmagnesium chloride (0.25M in Et2O, 50 mL, 12.5 mmol) over 5 h. Purification by medium pressure chromatography (2% MeOH in CH2Cl2) provided 5-[4-(4-fluoro-phenyl)-3-oxo-butyl]-pyrrolidin-2-one (2.64 g). 1H (CDCl3) δ7.18 (m, 2H), 7.03 (m, 2H), 6.34 (m, 1H), 3.70 (s, 2H), 3.62 (m, 1H), 2.54 (m, (t, 2H), 2.34-2.15 (m, 3H), 1.82-1.61 (m, 3H).

reactant | tetrahydro-pyrrolizine-3,5-dione | 10.1 mmol, 1.41 g | C1CC(N2C(CCC12)=O)=O | C7H9NO2
reactant | 4-fluorobenzylmagnesium chloride | 12.5 mmol, 0.25M, 50 mL | FC1=CC=C(C[Mg]Cl)C=C1
product | 5-[4-(4-fluoro-phenyl)-3-oxo-butyl]-pyrrolidin-2-one | 2.64 g | FC1=CC=C(C=C1)CC(CCC1CCC(N1)=O)=O | C14H16FNO2
